US04263291
A mixture of methyl 2-hydroxyimino-2-(isothiazol-4-yl)acetate (anti isomer) (3.41 g.), 36% aqueous solution of formaldehyde (24 ml.), conc. hydrochloric acid (12 ml.) and water (24 ml.) was stirred for 7 hours at 90° to 100° C. The reaction mixture was allowed to stand overnight in a refrigerator to precipitate crystals. The crystals were collected by filtration, washed with a small amount of ice-water and then dried to give 2-(isothiazol-4-yl)glyoxylic acid (2.09 g.). The mother liquor was extracted with ethyl acetate to give the same compound (0.34 g.), mp 145° to 148° C.

reactant | methyl 2-hydroxyimino-2-(isothiazol-4-yl)acetate | 3.41 g | ON=C(C(=O)OC)C=1C=NSC1 | C6H6N2O3S
reactant | formaldehyde | 24 ml | C=O | CH2O
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | water | 24 ml | O | H2O
product | 2-(isothiazol-4-yl)glyoxylic acid | 2.09 g | S1N=CC(=C1)C(C(=O)O)=O | C5H3NO3S
